US06846492B2
c) 1-Nitro-2-(3,4-dihexyloxyphenyl)ethene
3,4-Dihexyloxybenzaldehyde (122.6 g; 0.4 mmol) is heated to 100° C. with ammonium acetate (23.12 g; 0.3 mol) and nitromethane (42.7 g; 0.7 mol). Working-up is analogous to Example 6b).

reactant | 3,4-Dihexyloxybenzaldehyde | 0.4 mmol, 122.6 g | C(CCCCC)OC=1C=C(C=O)C=CC1OCCCCCC | C19H30O3
reactant | ammonium acetate | 0.3 mol, 23.12 g | C(C)(=O)[O-].[NH4+]
reactant | nitromethane | 0.7 mol, 42.7 g | [N+](=O)([O-])C | CH3NO2
product | 1-Nitro-2-(3,4-dihexyloxyphenyl)ethene | [N+](=O)([O-])C=CC1=CC(=C(C=C1)OCCCCCC)OCCCCCC | C20H31NO4
